datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[C:17]([H:18])([H:19])[H:20]>>[C:0]1([H:9])=[C:1]([H:10])[C:2]2=[C:3]([H:11])[C:4]([H:12])=[C:5]([H:13])[C:6]([H:14])([C:17]([H:18])([H:19])[H:20])[C:7]2[C:8]1([H:15])[H:16],35.9824
[C:0]([C:1](=[C:2]([H:11])[H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([H:11])[H:12])[c:3]1[c:4][c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])([H:10])[H:13],156.343528
[O:0]=[S:1][O:2][H:3].[O:4]>>[H:3][O:4].[O:0]=[S:1]=[O:2],0.0
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:28])([H:29])[H:30])=[C:17]([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:25])([H:26])[H:27])([C:16]([H:28])([H:29])[H:30])[C:17]([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:7])([H:5])[H:6],48.5344
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]1[H:14])[H:9])([H:7])[H:8].[H:15]>>[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:15])[C:5]([H:13])=[C:6]1[H:14])[H:9])([H:7])[H:8],5.4392
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([H:15])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:17],60.668
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20][C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:20](=[C:19]([H:22])[H:23])[C:21]([H:24])([H:25])[H:26])[H:9])([H:7])[H:8],1.96648
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([S:1][C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10])([H:2])([H:3])[H:4].[H:5],118.826
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]1([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]([H:23])([H:24])[C:9]1([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:12],22.8446
[C:0]([C:1]([N:2]([H:7])[H:8])([H:5])[H:6])([H:3])[H:4].[H:9]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:3])[H:4].[H:5][H:9],0.0
[C:0](#[N:1])[H:2].[O:3]>>[C:0]#[N:1].[H:2][O:3],31.5892
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])[H:17])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:17])[H:23])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12],94.9768
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[S:6]=[C:7]([C:8]([S:9][H:13])([H:11])[H:12])[H:10]>>[C:0](=[C:1]([S:2][H:5])[H:11])([H:3])[H:4].[S:6]=[C:7]([C:8]([S:9][H:13])[H:12])[H:10],-50.6264
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[S:13][H:20])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[S:13][H:20],11.7152
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26],-8.11696
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([H:18])[H:19])[H:17],36.61
[C:0]([C:1](=[C:2]([H:11])[H:12])[C:3](=[C:4]([H:13])[H:14])[C:5](=[C:6]([H:15])[H:16])[O:7][O:8][H:17])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1](=[C:2]([H:11])[H:12])[C:3](=[C:4]([H:13])[H:14])[C:5](=[C:6]([H:15])[H:16])[O:7]1.[O:8][H:17],29.288
[C:0]1([H:3])([H:4])[S:1][S:2]1.[C:5]([H:6])([H:7])[H:8]>>[C:0]([S:1])([S:2][C:5]([H:6])([H:7])[H:8])([H:3])[H:4],-4.85344
